US07291631B2
Using General Procedure B, (4-aminobutyl)-carbamic acid tert-butyl ester and 2-acetylpyridine in CH2Cl2 and NaBH(OAc)3 were reacted to obtain [4-(1-pyridin-2-ylethylamino)-butyl]-carbamic acid tert-butyl ester as a light brown oil.

reactant | (4-aminobutyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN)=O | C9H20N2O2
reactant | 2-acetylpyridine | C(C)(=O)C1=NC=CC=C1 | C7H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | [4-(1-pyridin-2-ylethylamino)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNC(C)C1=NC=CC=C1)=O | C16H27N3O2
